US08278343B2
Preparation 48: 3-(4′-Fluoro-biphenyl-4-yloxymethyl)-1-(2-methoxy-benzoyl)-pyrrolidine-3-carboxylic acid ethyl ester (±)
The title compound was prepared according to the method described for Preparation 29 using 4′-fluoro-biphenyl-4-ol and 3-iodomethyl-1-(2-methoxy-benzoyl)-pyrrolidine-3-carboxylic acid ethyl ester (Preparation 15) to afford the racemate as a white solid (178 mg, 76%)

reactant | 4′-fluoro-biphenyl-4-ol | FC1=CC=C(C=C1)C1=CC=C(C=C1)O | C12H9FO
reactant | 3-iodomethyl-1-(2-methoxy-benzoyl)-pyrrolidine-3-carboxylic acid ethyl ester | C(C)OC(=O)C1(CN(CC1)C(C1=C(C=CC=C1)OC)=O)CI | C16H20INO4
product | 3-(4′-Fluoro-biphenyl-4-yloxymethyl)-1-(2-methoxy-benzoyl)-pyrrolidine-3-carboxylic acid ethyl ester | C(C)OC(=O)C1(CN(CC1)C(C1=C(C=CC=C1)OC)=O)COC1=CC=C(C=C1)C1=CC=C(C=C1)F | C28H28FNO5
